US06054141
6-Butyloct-7-en-1-ol
8-(tert-butyldimethylsilyloxy)-3-butyloct-1-ene (4.0 g, 13.4 mmol) was added to a solution of tetrabutylammonium fluoride (1 M, 14 ml) in THF, and the mixture was stirred at ambient temperature for 24 h. Standard work-up followed by PMPLC yielded 2.05 g (83%) of 6-butyl-7-en-1-ol.

reactant | 8-(tert-butyldimethylsilyloxy)-3-butyloct-1-ene | 13.4 mmol, 4.0 g | [Si](C)(C)(C(C)(C)C)OCCCCCC(C=C)CCCC | C18H38OSi
reactant | tetrabutylammonium fluoride | 1 M, 14 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 6-Butyloct-7-en-1-ol | C(CCC)C(CCCCCO)C=C | C12H24O
